US07812022B2
Step B: 2,2,2-Trifluoro-N-{2-(methyloxy)-5-[(trimethylsilyl)ethynyl]phenyl}-acetamide
To an oven-dried flask under N2 was added N-[5-bromo-2-(methyloxy)phenyl]-2,2,2-trifluoroacetamide (1.53 g, 0.005 mol), anhydrous degassed THF (100 mL), dichlorobis(triphenylphosphine)palladium(II) (0.45 g, 0.0006 mol), Cu(I)I (73 mg, 0.38 mmol), and trimethylsilylacetylene (1.26 g, 0.013 mol). Next, TEA (5.19 g, 0.05 mol) was added dropwise and the resulting mixture was heated at 60° C. overnight. The crude reaction mixture was adsorbed to silica gel and purified by column chromatography (0-10% EtOAc in hexanes) to afford the desired product (0.68 g, 42%) as an off white solid. ESIMS (M−H)−=314.

reactant | N-[5-bromo-2-(methyloxy)phenyl]-2,2,2-trifluoroacetamide | 0.005 mol, 1.53 g | BrC=1C=CC(=C(C1)NC(C(F)(F)F)=O)OC | C9H7BrF3NO2
reactant | trimethylsilylacetylene | 0.013 mol, 1.26 g | C[Si](C)(C)C#C | C5H10Si
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.0006 mol, 0.45 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-N-{2-(methyloxy)-5-[(trimethylsilyl)ethynyl]phenyl}-acetamide | 0.68 g, 42% | FC(C(=O)NC1=C(C=CC(=C1)C#C[Si](C)(C)C)OC)(F)F | C14H16F3NO2Si
